US06972288B1
4-[(3-Chloro-4-fluoro-phenyl)amino]-6-({4-[4-(tert.butyloxy-carbonyl)-piperazin-1-yl]-1-oxo-2-buten-1-yl}amino)-7-cyclo-propylmethoxy-quinazoline
4.7 ml of oxalyl dichloride are added to a solution of 4.51 g 4-bromo-but-2-enoic acid in 100 ml of methylene chloride at room temperature. After addition of one drop of N,N-dimethyl-formamide, the reaction mixture is stirred for approximately 45 minutes until the gas evolution has ceased. The solvent is distilled off in vacuo to give the crude acid chloride. In the meantime, a mixture of 7.00 g 6-amino-4-[(3-chloro-4-fluoro-phenyl)amino]-7-cyclopropylmethoxy-quinazoline and 10.2 ml diisopropylethylamine in 250 ml tetrahydrofuran is cooled to 0° C. in an ice/water bath. The crude 4-bromo-but-2-enoic acid chloride is dissolved in 20 ml of methylene chloride and added dropwise to this mixture within 5 minutes. After stirring for 45 minutes at 0° C. and one hour at room temperature, 18.17 g of piperazine-1-carboxylic acid tert.butyl ester suspended in 5 ml of N,N-dimethyl-formamide are added. After stirring for 48 hours at room temperature, the solvent is distilled off in vacuo and the residue is partitioned between 100 ml of water and 200 ml of ethyl acetate. The aqueous layer is extracted with ethyl acetate, the combined organic layers are washed with concentrated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo. The crude product is purified by column chromatography on silica gel with ethyl acetate/methanol (15:1 to 9:1). Yield: 5.2 g (44% of theory), Rf value: 0.42 (silica gel, methylene chloride/methanol=9:1) Mass spectrum (ESI*): m/z=609, 611 [M−H]*

reactant | 6-amino-4-[(3-chloro-4-fluoro-phenyl)amino]-7-cyclopropylmethoxy-quinazoline | 7.00 g | NC=1C=C2C(=NC=NC2=CC1OCC1CC1)NC1=CC(=C(C=C1)F)Cl | C18H16ClFN4O
reactant | diisopropylethylamine | 10.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-bromo-but-2-enoic acid chloride | BrCC=CC(=O)Cl | C4H4BrClO
reactant | piperazine-1-carboxylic acid tert.butyl ester | 18.17 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethyl-formamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-[(3-Chloro-4-fluoro-phenyl)amino]-6-({4-[4-(tert.butyloxy-carbonyl)-piperazin-1-yl]-1-oxo-2-buten-1-yl}amino)-7-cyclo-propylmethoxy-quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCN1CCN(CC1)C(=O)OC(C)(C)C)=O)OCC1CC1 | C31H36ClFN6O4
